US08754100B2
Synthesis of 3-methoxy-4-(4-methylimidazol-1-yl)benzoic acid hydrazide
To a solution of benzyl N′-[3-methoxy-4-(4-methylimidazol-1-yl)benzoyl]hydrazinecarboxylate (1.25 g) in methanol (60 mL) was added 20% palladium hydroxide-carbon (50% wet, 250 mg) and the mixture was hydrogenated at an intermediate pressure (3.8 atm) for two hours and 30 minutes. The palladium-carbon was removed by filtration through celite. The filtrate was concentrated under reduced pressure to obtain 826 mg of the title compound. The property values of the compound are as follows.

reactant | benzyl N′-[3-methoxy-4-(4-methylimidazol-1-yl)benzoyl]hydrazinecarboxylate | 1.25 g | COC=1C=C(C(=O)NNC(=O)OCC2=CC=CC=C2)C=CC1N1C=NC(=C1)C | C20H20N4O4
solvent | methanol | 60 mL | CO | CH4O
catalyst | palladium hydroxide carbon | 250 mg | [OH-].[Pd+2].[OH-].[C]
product | 3-methoxy-4-(4-methylimidazol-1-yl)benzoic acid hydrazide | 826 mg | COC=1C=C(C(=O)NN)C=CC1N1C=NC(=C1)C | C12H14N4O2
